US05236940
The procedure is as Example 7, starting with 6-trifluoromethoxy-4-nitro-2-benzothiazolamine, iron powder, concentrated hydrochloric acid and ethanol having a water content of 50% (vol./vol.). After purification on a column of silica with a mixture of cyclohexane and ethyl acetate (10:90 by volume) as eluant, a white solid (1.5 g) is recovered, which solid is recrystallized in toluene (130 cc) to obtain 6-tri-fluoromethoxy-2,4-benzothiazolediamine (1 g), m.p. 206° C.

reactant | 6-trifluoromethoxy-4-nitro-2-benzothiazolamine | FC(OC1=CC2=C(N=C(S2)N)C(=C1)[N+](=O)[O-])(F)F | C8H4F3N3O3S
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
catalyst | iron | [Fe] | Fe
solvent | water | O | H2O
product | 6-tri-fluoromethoxy-2,4-benzothiazolediamine | 1 g | FC(OC=1C=C2C(N=C(S2)N)=C(C1)N)(F)F | C8H6F3N3OS
